US07320973B2
4-Morpholinophenethyl mesylate (0.43 g, 1.51 mmol), D-prolinol (0.17 g, 1.66 mmol) and sodium carbonate (0.40 g, 2.89 mmol) were added to acetonitrile (20 ml), and they were stirred under heating at 70° C. overnight. The reaction mixture was cooled and then filtered. The filtrate was evaporated to dryness under reduced pressure, and the residue was distributed into water and ethyl acetate. The intended product was extracted from ethyl acetate layer with 1 M hydrochloric acid. The aqueous layer was neutralized and the product was again extracted with ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure to obtain (R)-2-hydroxymethyl-1-(4-morpholinophenethyl)pyrrolidine in the form of a light yellow solid (0.44 g, 1.5 mmol, 100%). This product was dissolved in dichloromethane (10 ml). Triethylamine (0.29 ml, 2.1 mmol) and methanesulfonyl chloride (0.15 ml, 1.9 mmol) were added to the obtained solution at 0° C., and they were stirred at room temperature for 1 hour. The reaction mixture was distributed into 5% aqueous sodium hydrogencarbonate solution and dichloromethane. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (1:1), suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(morpholinophenethyl)piperidine in the form of a white solid (0.30 g, 64%).

reactant | 4-Morpholinophenethyl mesylate | 1.51 mmol, 0.43 g | S(C)(=O)(=O)OCCC1=CC=C(C=C1)N1CCOCC1 | C13H19NO4S
reactant | D-prolinol | 1.66 mmol, 0.17 g | N1[C@@H](CO)CCC1 | C5H11NO
reactant | sodium carbonate | 2.89 mmol, 0.40 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (R)-2-hydroxymethyl-1-(4-morpholinophenethyl)pyrrolidine | OC[C@@H]1N(CCC1)CCC1=CC=C(C=C1)N1CCOCC1 | C17H26N2O2
